US07378409B2
The compound benzyl (1S,2R,4R)-2-((tert-butyldimethylsilyloxy)methyl)-4-hydroxycyclohexylcarbamate (4.15 g) in CH2Cl2 (30 mL) was added to Dess-Martin periodane (13.4 g, 31.6 mmol) in CH2Cl2 (100 mL) at 0° C. After 1 h, the ice bath was removed and the reaction aws stirred overnight. This mixture was diluted with ether (425 mL) and washed with water (2×50 mL), sat'd Na2S2O3 (2×50 mL), 1N sodium hydroxide (2×50 mL), and brine (1×50 mL). The organic layer was dried over MgSO4, filtered, and then evaporated to dryness to give benzyl (1S,2R)-2-((tert-butyldimethylsilyloxy)methyl)-4-oxocyclohexylcarbamate (4.05 g) as a clear viscous oil after drying under vacuum overnight. MS found: (M+H)+=392.

reactant | benzyl (1S,2R,4R)-2-((tert-butyldimethylsilyloxy)methyl)-4-hydroxycyclohexylcarbamate | 4.15 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1[C@H](CC[C@H](C1)O)NC(OCC1=CC=CC=C1)=O | C21H35NO4Si
reactant | Dess-Martin periodane | 31.6 mmol, 13.4 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 425 mL | CCOCC | C4H10O
product | benzyl (1S,2R)-2-((tert-butyldimethylsilyloxy)methyl)-4-oxocyclohexylcarbamate | 4.05 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1[C@H](CCC(C1)=O)NC(OCC1=CC=CC=C1)=O | C21H33NO4Si
